US08497371B2
2-(4-{[(4-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid (28)
Pipemidic acid (58 mg, 0.191 mmol) and 4-chlorophenyl isothiocyanate (27 mg, 0.159 mmol) were used. Purification on silica yielded compound 28 in Table 1, below (50 mg, 67%). 1H NMR (300 MHz, CDCl3) δ 9.34 (s, 1H), 8.68 (s, 1H), 7.36-7.34 (m, 2H), 7.17 (d, J=8.70 Hz, 2H), 4.39-4.28 (m, 2H), 4.28-3.93 (m, 8H), 1.49 (t, J=6.68 Hz, 3H) ppm.

reactant | Pipemidic acid | 0.191 mmol, 58 mg | CCN1C=C(C(=O)C2=C1N=C(N=C2)N3CCNCC3)C(=O)O | C14H17N5O3
reactant | 4-chlorophenyl isothiocyanate | 0.159 mmol, 27 mg | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
product | 2-(4-{[(4-chlorophenyl)amino]carbonothioyl}-1-piperazinyl)-8-ethyl-5-oxo-5,8-dihydropyrido[2,3-d]pyrimidine-6-carboxylic acid | ClC1=CC=C(C=C1)NC(=S)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)O)CC | C21H21ClN6O3S
